US07582655B2
A mixture of methyl 4-hydroxybenzoate (15.21 g, 0.1 mol), anhydrous potassium carbonate (34.55 g, 0.25 mol), 2-chloro-N,N-diethylamine hydrochloride (25.81 g, 0.15 mol), potassium iodide (0.166 g, g, 0.001 mol) and acetone (75 ml) was heated under reflux for 10-9 h. On cooling, the solid was removed by filtration and the solvent was evaporated. The residue was dissolved in toluene (75 ml) and the solution was washed with sodium hydroxide solution (2% w/v, 30 ml) and deionized water (2×30 ml). Removal of the solvent afforded methyl 4-(2-diethylaminoethyloxy)benzoate as an oil which was dissolved in ethanol (50 ml) and added to a solution of sodium hydroxide (10.0 g, 0.2 mol) in water (50 ml). The mixture was heated under reflux for 2 h. The ethanol was removed in vacuo and the aqueous solution was acidified with hydrochloric acid (12N) at 5-6° C. The solid was collected, triturated with water (previously cooled to 5-6° C.), filtered and dried at 55-60° C. in vacuo and recrystallized from water to give 10. 4-(2-Diethylaminoethoxy)benzoic acid hydrochloride (10). M.p. 170-172° [lit.[22], m.p. 171-174°]. Yield: 73%. 1H NMR (D2O): 1.17-1.20 (t, 6H, 2×CH3), 3.13-3.24 (m, 4H, 2×CH2), 3.47-3.48 (t, 2H, OCH2CH2N), 4.26-4.28 (t, 2H, OCH2CH2N), 6.89-6.91 (d, 2H, aryl H), 7.80-7.82 (d, 2H, aryl H).

reactant | methyl 4-hydroxybenzoate | 0.1 mol, 15.21 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 0.25 mol, 34.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-diethylamine hydrochloride | 0.15 mol, 25.81 g | Cl.ClCCNCC
reactant | potassium iodide | 0.001 mol, 0.166 g | [I-].[K+]
reactant | acetone | 75 ml | CC(=O)C | C3H6O
product | methyl 4-(2-diethylaminoethyloxy)benzoate | C(C)N(CCOC1=CC=C(C(=O)OC)C=C1)CC | C14H21NO3
